US09120745B2
Cbz-Cl was added to the solution of 3-(2-(benzyloxy)-4-(ethoxymethoxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-1H-1,2,4-triazol-5(4H)-one and DIPEA in dichloromethane and reaction solution was stirred for 2 h at room temperature. Washed with water and extracted with dichloromethane and solvent was removed. The crude reaction mixture was carried over to the next reaction without further purification. The reaction mixture was diluted by methanol and treated with concentrated HCl and heated it up to 65° C. Column chromatogram produced the desired benzyl 3-(2-(benzyloxy)-4-(ethoxymethoxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazole-1-carboxylate.

reactant | Cbz-Cl | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
reactant | 3-(2-(benzyloxy)-4-(ethoxymethoxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-1H-1,2,4-triazol-5(4H)-one | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCOCC)C(C)C)C1=NNC(N1C=1C=C2C=CN(C2=CC1)C)=O | C30H32N4O4
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | benzyl 3-(2-(benzyloxy)-4-(ethoxymethoxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazole-1-carboxylate | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCOCC)C(C)C)C1=NN(C(N1C=1C=C2C=CN(C2=CC1)C)=O)C(=O)OCC1=CC=CC=C1 | C38H38N4O6
